US07951954B2
a) (3-Formyl-phenyl)-acetic acid ethyl ester
N-bromosuccinimide (1.78 g) and 2,2′-azobis(2-methylpropionitrile) (16 mg) were added to a solution of ethyl-3-methylphenylacetate (1.76 mL) in chloroform (18 mL) and heated to reflux for 3 hours. On cooling the mixture was diluted with chloroform (40 mL), washed sequentially with saturated aqueous sodium bicarbonate solution (2×50 mL), brine (50 mL), dried (sodium sulfate) and concentrated. The residue was dissolved in nitrogen degassed dimethylsulfoxide (50 mL) and sodium bicarbonate (13.5 g) added. The mixture was heated at 100° C., under nitrogen for 30 min. The reaction was cooled in an ice-bath and poured into brine (300 mL). The aqueous phase was extracted with diethyl ether (3×300 mL). The combined organics were dried (sodium sulfate) and concentrated. Purification on silica, eluting with 10% diethyl ether in iso-hexane, to afford the subtitle compound as a yellow oil (1.23 g).

reactant | N-bromosuccinimide | 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 16 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | ethyl-3-methylphenylacetate | 1.76 mL | C(C)OC(CC1=CC(=CC=C1)C)=O | C11H14O2
solvent | chloroform | 18 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | (3-Formyl-phenyl)-acetic acid ethyl ester | 1.23 g | C(C)OC(CC1=CC(=CC=C1)C=O)=O | C11H12O3
